US06500503B2
Preparation of (3,4-Difluorophenyl)ethyltriphenylphosphonium Bromide
A mixture of 19.67 g (89 mmol) of 3,4-difluoro-phenethyl bromide, 28.07 g (107 mmol) of triphenyl phosphine and 134 ml of toluene was heated under reflux for 36 hrs. After cooling, the crystal was washed by decantation with toluene and dried in vacuo, while ice-cooling.

reactant | 3,4-difluoro-phenethyl bromide | 89 mmol, 19.67 g | FC=1C=C(CCBr)C=CC1F | C8H7BrF2
reactant | triphenyl phosphine | 107 mmol, 28.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 134 ml | C1(=CC=CC=C1)C | C7H8
product | (3,4-Difluorophenyl)ethyltriphenylphosphonium Bromide | [Br-].FC=1C=C(C=CC1F)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H22F2P.BrH/c27-25-17-16-21(20-26(25)28)18-19-29(22-10-4-1-5-11-22,23-12-6-2-7-13-23)24-14-8-3-9-15-24;/h1-17,20H,18-19H2;1H/q+1;/p-1
